Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ceclor / erythromycin base
 
Attending: ___
 
Chief Complaint:
Nausea, vomiting, and diarrhea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a PMH significant for 
endometriosis who is admitted for colitis. She was in her USOH 
until day of presentation and noticed acute onset nausea, with 
NBNB vomiting. She subsequently developed diarrhea with mild b/l 
lower, cramping abd pain, with mild hematochezia following 
multiple BM's. She deferred evaluation while in ___, ___ at ___ 
___, as her symptoms appeared to resolve initially. However 
on the car ride home, she continued to have nausea and diarrhea 
with worsening lower abd pain and presented to ED at ___ for 
further evaluation. She endorses chills and sweats with her pain 
and GI sx but denies any fevers. ROS also negative for chest 
pain, SOB, mouth pain/ulcers, upper abd pain, joint pains, 
dysuria, flank pain, rash, or increased ___ swelling.

Of note, she has had a similar episode in the past about ___ 
years without clear diagnosis. She was managed supportively with 
anti-emetics at that point and had negative evaluation with EGD, 
Colonoscopy, HIDA, and biopsy (per report). Since this episode, 
she has had chronic nausea, mostly in the mornings, for which 
she is on Zofran PRN at home. Her symptoms have greatly improve, 
but she still take Zofran up to twice/week. She also had 
endrometriosis (biopsy proven with involvement mostly in her 
ovaries per patient about ___ year ago in ___). 
Pertinent contacts include dogs at her parents house and work as 
a ___ in ___. She recently traveled to ___ 
x5 days (returned on ___, about 1 month prior to 
presentation). She otherwise has had no sick contacts. Other 
members of her trip (both ski and PR) have been fine.

In the ED, the patient had stable vitals with exam notable for 
LLQ tenderness. She had labs notable for WBC of 14.2 and lactate 
2.4. CT Abd/Pelv was notable for radiographic signs of colitis 
from descending through sigmoid colon. She was started on 
cipro/flagyl, IV morphine, Zofran, and IVF x2L. 

On arrival to the floor, she did continue to have loose stools 
and was given an additional liter of maintenance LR. Overnight, 
she has noticed continued abd pain but did not have any BM's. 
Still has some nausea, but she denies any f/c/r, chest pain, 
vomiting, SOB, or other complaints o/n.
 
Past Medical History:
-Endometriosis s/p laproscopic surgery
-Pancolilitis in ___ treated with steroids - followed up with 
negative work-up with EGD, Colonoscopy, and Biopsy
 
Social History:
___
Family History:
No family history for UC/Crohn's. No history of autoimmune 
conditions like RA, SLE, psoriasis, vitiligo. No significant GI 
malignancies or liver issues. 
 
Physical Exam:
ADMISSION PHYSICAL:
VITALS: 98.3 121/85 70 18 95/RA 
GENERAL: Pleasant, well-appearing, in no apparent distress; did 
look uncomfortable during exam when she began having abd pain
HEENT: NCAT no conjunctival pallor/scleral icterus, PERRLA, 
EOMI, OP clear MMM normal dentition
NECK: supple, no LAD along anterior, posterior, or 
supraclavicular chains
CARDIAC: Normal S1/S2, no murmurs, rubs, or gallops
LUNGS: CTAB without wheezes or rhonchi
ABDOMEN: normal bowel sounds, soft, ttp in b/l LQ L>R, 
non-distended, no hepatic or splenomegaly. ___ sign absent. 
No rebound or guarding.
EXTREMITIES: WWP, no cyanosis, clubbing or edema, no joint 
effusions or tenderness.
SKIN: without rash; laparoscopy scar in umbilicus, suprapubic, 
and LLQ
NEUROLOGIC: Alert, appropriately interactive, symmetric smile, 
tongue midline on protrusion, symmetric palatal elevation, 
normal sensation in b/l UE, torso, and ___ to light touch, 
strength ___ on handgrip, UE flexor/extensors, ___ able to be 
lifted against gravity. No focal deficits.

DISCHARGE PHYSICAL:
VITALS: 98.3, 111/66, 63, 20, 99% RA
I/O: 290/void last 8 hours; ___ last 24 hours
GENERAL: Pleasant, well-appearing, in no apparent distress; did 
look uncomfortable during exam when she began having abd pain
HEENT: NCAT no conjunctival pallor/scleral icterus, PERRLA, 
EOMI, OP clear MMM normal dentition
NECK: supple, no LAD along anterior, posterior, or 
supraclavicular chains
CARDIAC: Normal S1/S2, no murmurs, rubs, or gallops
LUNGS: CTAB without wheezes or rhonchi
ABDOMEN: normal bowel sounds, soft, ttp in b/l LQ L>R, 
non-distended, improved from day prior. ___ sign absent. No 
rebound or guarding.
EXTREMITIES: WWP, no cyanosis, clubbing or edema, no joint 
effusions or tenderness.
SKIN: without rash; laparoscopy scar in umbilicus, suprapubic, 
and LLQ
NEUROLOGIC: Alert, appropriately interactive, no focal deficits 
appreciated
 
Pertinent Results:
ADMISSION LABS:
___ 08:54PM BLOOD WBC-14.2* RBC-4.25 Hgb-13.2 Hct-38.8 
MCV-91 MCH-31.1 MCHC-34.0 RDW-11.9 RDWSD-39.9 Plt ___
___ 08:54PM BLOOD Neuts-85.3* Lymphs-9.3* Monos-4.8* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-12.10* AbsLymp-1.32 
AbsMono-0.68 AbsEos-0.00* AbsBaso-0.03
___ 08:59PM BLOOD ___ PTT-28.9 ___
___ 08:54PM BLOOD Glucose-97 UreaN-9 Creat-0.8 Na-138 K-4.1 
Cl-100 HCO3-24 AnGap-18
___ 08:54PM BLOOD ALT-26 AST-29 LD(LDH)-168 AlkPhos-39 
TotBili-1.1
___ 10:27PM BLOOD Lactate-2.4*
___ 10:15PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:15PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-150 Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-SM 
___ 10:15PM URINE RBC-1 WBC-7* Bacteri-NONE Yeast-NONE 
Epi-4
___ 10:15PM URINE UCG-NEGATIVE

OTHER IMPORTANT LABS:
___ 09:23AM BLOOD Lactate-1.2

MICROBIOLOGY:
___ Urine Culture: Negative
___ Blood Culture x2: NGTD, pending at time of discharge

IMAGING AND OTHER STUDIES:
___ CT Abdomen and Pelvis with Contrast: Descending colonic 
wall thickening and surrounding fat stranding, consistent with 
colitis, possibly inflammatory in nature.

DISCHARGE LABS:
___ 07:41AM BLOOD WBC-6.9 RBC-3.79* Hgb-11.6 Hct-35.5 
MCV-94 MCH-30.6 MCHC-32.7 RDW-12.1 RDWSD-41.3 Plt ___
___ 07:41AM BLOOD Glucose-82 UreaN-6 Creat-0.8 Na-137 K-3.7 
Cl-104 HCO3-26 AnGap-11
 
Brief Hospital Course:
Mrs. ___ is a ___ year old woman with a PMH 
significant for endometriosis s/p laparoscopy and pancolitis in 
___ treated with steroids with subsequent negative work-up for 
IBD, admitted for acute-onset colitis without clear etiology.

# Acute Colitis: The patient presented with acute onset nausea, 
non-bilious/non-bloody vomiting, and diarrhea (initially clear, 
progressed to bloody after several BM's). The patient had stable 
vital signs and was without fever, but had bilateral lower 
quadrant crampy pain and radiographic signs of colitis involving 
mostly her descending through sigmoid colon. The patient had 
negative work-up with blood and urine cultures during this 
admission and was empirically started on cipro/flagyl x48 hours. 
She did not have any further bowel movements while inpatient so 
no stool studies were sent. With supportive IVF, pain 
management, and anti-emetic therapy, the patient quickly 
improved. Her leukocytosis resolved and she was starting to 
tolerate bland foods by time of discharge. Given her rapid 
recovery, the patient was felt to have likely acute, viral cause 
of colitis. However, given her prior history of pancolitis, she 
was referred to GI as an outpatient for follow-up and work-up 
for potential underlying inflammatory condition. She was sent 
home with tramadol for pain and Zofran for nausea and no 
antibiotic therapy. She was instructed to follow-up with her PCP 
regarding this hospitalization and outpatient GI as above.

# Endometriosis: The patient has a history of endometriosis, per 
patient in her ovaries, s/p laprascopic surgery and removal 
affect tissue about ___ years prior to admission. She was 
continued on her home OCP's during this admission and did not 
feel her pain to be similar to pain from prior episodes of 
endometriosis.

TRANSITIONAL ISSUES:
-Patient had significant flushing and pruritis with oxycodone 
use
-Patient should follow up with GI as an outpatient for further 
work-up of possible underlying inflammatory bowel disease
-Patient was discharged on Tramadol 50mg PO q6H x 10 tablets for 
pain control
-CODE STATUS: FULL CODE
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN Nausea 
2. ___ (21) (norethindrone ac-eth estradiol) ___ mg-mcg 
oral DAILY 
3. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
DAILY:PRN SOB 

 
Discharge Medications:
1. ___ (21) (norethindrone ac-eth estradiol) ___ mg-mcg 
oral DAILY 
2. Ondansetron 4 mg PO Q8H:PRN Nausea 
3. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
DAILY:PRN SOB 
4. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
Please do not drive or operate heavy machinery while on this 
medication 
RX *tramadol 50 mg 1 tablet(s) by mouth every 6 hours Disp #*10 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS/ES:
-Colitis of unclear etiology

SECONDARY DIAGNOSIS/ES:
-History of endometriosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for severe nausea, vomiting, 
and diarrhea along with abdominal pain. You were given 
medications for your pain and nausea as well as fluids through 
your IV for rehydration. You also had a CAT scan of your 
abdomen, which showed inflammation in your colon, most likely 
due to an infection. You were given antibiotics briefly. These 
were discontinued as you improved rapidly. You were monitored 
closely for 48 hours and discharged home with instructions to 
follow up with your PCP as well as Gastroenterology.

You can use acetaminophen (over the counter) and tramadol 
(prescription) for pain.

Please take note of any changes in your home medications and 
follow up with your outpatient doctors as detailed in the rest 
of your discharge paperwork.

Thank you for allowing us to be a part of your care,
Your ___ Team
 
Followup Instructions:
___